US07326699B2
50 mg (0.09 mmol) of trans-toluene-4-sulfonic acid 3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl ester and 34 mg (0.225 mmol) of adamantan-1-ylamine (Fluka, Buchs, Switzerland) in 1 ml N,N-dimethylformamide are stirred for 18 h at RT and for 24 h at 60° C. Additional adamantan-1-ylamine is added (34 mg) and stirring is continued for 24 h at 120° C. The solvent is evaporated to dryness and the residue is purified by flash-chromatography (ethylacetate:methanol:NH4OHaqu.=95:5:1) to provide trans-7-[3-(adamantan-1-ylaminomethyl)cyclobutyl]-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine. Analytical HPLC: tR=11.14 min (Grad 1); ES-MS: m/eo=533.9.

reactant | trans-toluene-4-sulfonic acid 3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl ester | 0.09 mmol, 50 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)COS(=O)(=O)C2=CC=C(C=C2)C | C31H30N4O4S
reactant | adamantan-1-ylamine | 0.225 mmol, 34 mg | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | trans-7-[3-(adamantan-1-ylaminomethyl)cyclobutyl]-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C12(CC3CC(CC(C1)C3)C2)NC[C@@H]2C[C@H](C2)N2C=C(C3=C2N=CN=C3N)C3=CC(=CC=C3)OCC3=CC=CC=C3 | C34H39N5O
